US08022063B2
[2-(2-Benzyloxazol-4-yl)-4-bromophenoxy]acetic acid.
Title compound was prepared from [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester and 2-phenylacetamide according to GP5 and GP3: LC/MS (an10p8) Rt 2.47 min, m/z 388 [M+H]+; 1H NMR (CDCl3): δ 4.22 (s, 2H), 4.84 (s, 2H), 7.04 (d, 1H), 7.25 (m, 5H), 7.43 (d, 1H), 8.06 (s, 1H), 8.69 (s, 1H), 13 (br s, 1H).

reactant | [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)C(CBr)=O)=O | C12H12Br2O4
reactant | 2-phenylacetamide | C1(=CC=CC=C1)CC(=O)N | C8H9NO
product | [2-(2-Benzyloxazol-4-yl)-4-bromophenoxy]acetic acid | C(C1=CC=CC=C1)C=1OC=C(N1)C1=C(OCC(=O)O)C=CC(=C1)Br | C18H14BrNO4
